US07709466B2
(c) 6-(3-Hydroxymethyl-5-methylaminomethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one
18 mg of 2-[6-(3-hydroxymethyl-5-methylaminomethyl-phenyl)-3-methoxy-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester is dissolved in 3 ml of acetonitrile and 19 mg of potassium iodide and 12 mg of chlorotrimethylsilane are added. The reaction is heated to 85° C. for 5 h. The reaction is quenched by the addition of a drop of water, the solvent is removed under reduced pressure and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 3.5 mg. LC-MS (ES+) 361 (M+H)+.

reactant | 2-[6-(3-hydroxymethyl-5-methylaminomethyl-phenyl)-3-methoxy-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester | 18 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC(=CC(=C1)CNC)CO)OC | C27H30N4O4
reactant | potassium iodide | 19 mg | [I-].[K+]
reactant | chlorotrimethylsilane | 12 mg | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6-(3-Hydroxymethyl-5-methylaminomethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one | OCC=1C=C(C=C(C1)CNC)C=1C=C(C(NN1)=O)C=1NC2=CC=CC=C2C1 | C21H20N4O2
